US04405620
(a) 3-Benzyloxy-2-methylphenol
Anhydrous potassium carbonate (30.4 g.) was added to a stirred solution of 2-methylresorcinol (24.8 g) in N,N-dimethylformamide (DMF, 250 ml) and benzyl chloride (25.3 g) was added over 15 minutes. The mixture was heated to 80° C. and maintained at this temperature overnight with continued stirring. On cooling the DMF was removed in vacuo to give an oil which was partitioned between water and ether. The dried ethereal phase was evaporated and chromatographed on silica eluting with chloroform to give 9.78 g (23%) of the title compound of mp 58°-59° C. (Found; C, 78.16; H, 6.63; C14H14O2 requires C, 78.48, H, 6.58%).

reactant | potassium carbonate | 30.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylresorcinol | 24.8 g | CC1=C(O)C=CC=C1O | C7H8O2
reactant | benzyl chloride | 25.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-2-methylphenol | 9.78 g, 23% | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)O)C | C14H14O2
